US07405299B2
Preparation of 2-Dimethylamino-N-[6-[2-(pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-[1,8]naphthyridin-2-yl]-acetamide
Add N-(6-bromo-[1,8]naphthyridin-2-yl)-2-dimethylamino-acetamide (148 mg, 0.48 mmol), 2-(pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-boronic acid (Preparation 5; 100 mg, 0.44 mmol), potassium fluoride (84 mg, 1.45 mmol), and THF (1.5 mL) to a flask under nitrogen. Purge the system with nitrogen for 10 min and add tris(dibenzylideneacetone)dipalladium(0) (40 mg, 0.044 mmol) and tri-tert-butylphosphonium tetrafluoroborate (Strem; 25 mg, 0.088 mmol). Purge the system with nitrogen for 2 min then stir for 16 h at room temperature. Add additional tris(dibenzylideneacetone)dipalladium(0) (50 mg, 0.054 mmol) and tri-tert-butylphosphonium tetrafluoroborate (40 mg, 0.138 mmol) and heat the reaction to 65° C. for 9 h. Filter the reaction through Celite®, rinse with chloroform/methanol, and concentrate in vacuo. Purify by flash column chromatography followed by reverse-phase preparative HPLC. Collect the pure fractions from the HPLC, concentrate in vacuo, take up the residue in methanol, and treat with MP-carbonate beads. Filter, concentrate in vacuo, and triturate with hexanes to provide the title compound (10 mg, 5%) as a tan solid. MS ESI+ m/e 414 (M+1). 1H NMR (CDCl3) δ 10.21 (m, 1H), 8.93 (m, 1H), 8.48 (m, 2H), 8.09 (m, 2H), 7.68 (m, 2H), 7.20 (m, 1H), 4.27 (m, 2H), 3.17 (m, 4H), 2.72 (m, 2H), 2.41 (s, 6H). HPLC: 95.1%, Rt=11.21 min. TLC (SiO2): Rf0.3 (1:1 [80:18:2 chloroform/methanol/concentrated aqueous ammonium hydroxide]/dichloromethane)

reactant | N-(6-bromo-[1,8]naphthyridin-2-yl)-2-dimethylamino-acetamide | 0.48 mmol, 148 mg | BrC=1C=C2C=CC(=NC2=NC1)NC(CN(C)C)=O | C12H13BrN4O
reactant | 2-(pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-boronic acid | 0.44 mmol, 100 mg | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)B(O)O | C11H12BN3O2
reactant | potassium fluoride | 1.45 mmol, 84 mg | [F-].[K+]
reactant | tri-tert-butylphosphonium tetrafluoroborate | 0.088 mmol, 25 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | tri-tert-butylphosphonium tetrafluoroborate | 0.138 mmol, 40 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.044 mmol, 40 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.054 mmol, 50 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 2-Dimethylamino-N-[6-[2-(pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-[1,8]naphthyridin-2-yl]-acetamide | 10 mg, 5% | CN(CC(=O)NC1=NC2=NC=C(C=C2C=C1)C1=C2N(N=C1C1=NC=CC=C1)CCC2)C | C23H23N7O
